US09056874B2
(±)-2-((1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)amino)acetic acid
To a solution of (±)-tert-butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-1-((2-ethoxy-2-oxoethyl)amino)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (75 mg, 0.128 mmol) in EtOH (1.28 mL) at room temperature under nitrogen, Cs2CO3 (209 mg, 0.640 mmol) was added and the reaction was stirred at 60° C. After 95 minutes additional Cs2CO3 (209 mg, 0.640 mmol) was added. After 1 more hour the reaction was cooled, quenched with NH4Cl, extracted with EtOAc (×5), dried with MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-30% MeOH in DCM, MeOH contains 10% ammonium hydroxide) to provide the title compound as the ammonium salt. 1H NMR (ammonium salt, 400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.05 (br. s., 1H) 8.12 (br. s., 1H) 7.65 (d, J=8.08 Hz, 1H) 7.58 (dd, J=8.34, 1.52 Hz, 1H) 7.20 (br. s., 1H) 6.81 (s, 1H) 6.15 (br. s., 1H) 3.40 (br. s., 3H) 3.27 (d, J=17.43 Hz, 1H) 2.87 (d, J=17.31 Hz, 1H) 2.44-2.48 (m, 3H). HRMS calcd. for C22H18F3N5O3 (M+H)+ 458.1440. found 458.1418.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1H-benzo[d]imidazol-2-yl)-1-((2-ethoxy-2-oxoethyl)amino)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.128 mmol, 75 mg | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(NCC(=O)OCC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C=C1 | C29H30F3N5O5
reactant | Cs2CO3 | 0.640 mmol, 209 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cs2CO3 | 0.640 mmol, 209 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | EtOH | 1.28 mL | CCO | C2H6O
product | (±)-2-((1-(5-cyano-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)amino)acetic acid | C(#N)C1=CC2=C(NC(=N2)C(C(F)(F)F)(C2=C3C=CNC3=C(C=C2OC)C)NCC(=O)O)C=C1 | C22H18F3N5O3
